US07098220B2
3-Cyclooctyl-3H-imidazo[4,5-b]pyridine-2-amine
The experimental protocol is identical with that used in Example 1, starting in Step a from 3-amino-2-cyclooctylaminopyridine of Preparation 3 instead of 3-amino-2-cyclohexylaminopyridine.

reactant | 3-amino-2-cyclooctylaminopyridine | NC=1C(=NC=CC1)NC1CCCCCCC1 | C13H21N3
reactant | 3-amino-2-cyclohexylaminopyridine | NC=1C(=NC=CC1)NC1CCCCC1 | C11H17N3
product | 3-Cyclooctyl-3H-imidazo[4,5-b]pyridine-2-amine | C1(CCCCCCC1)N1C(=NC=2C1=NC=CC2)N | C14H20N4
